US05508293
To propyl 5-methyl-3-pyridinecarboximidate was then added an aqueous solution (100 ml) of cyanamide (1.42 g, 33.8 mmol), Na2HPO4 (2.40 g, 16.9 mmol) and NaH2PO4 ·2H2O (10.56 g, 67.7 mmol). The mixture was stirred at room temperature for 5 hours and extracted with chloroform (100 ml×3). The chloroform layer was dried over anhydrous sodium sulfate and concentrated under reduced pressure to give a crude product of propyl N-cyano-5-methyl-3-pyridinecarboximidate (2.54 g). IR (neat) cm-1 : 2200, 1610, 1320, 730.

reactant | propyl 5-methyl-3-pyridinecarboximidate | CC=1C=C(C=NC1)C(OCCC)=N | C10H14N2O
reactant | cyanamide | 33.8 mmol, 100 ml, 1.42 g | N#CN | CH2N2
product | propyl N-cyano-5-methyl-3-pyridinecarboximidate | 2.54 g | C(#N)N=C(OCCC)C=1C=NC=C(C1)C | C11H13N3O
